Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
___: Open reduction, internal fixation of left femoral
neck fracture; Implants: 6.5 cannulated screws.

 
History of Present Illness:
___ is a ___ right-handed woman with a 
diagnosis of small cell lung cancer on palliative chemotherapy, 
coronary artery disease, and COPD on home oxygen who was 
transferred from ___ after a right parietal hemorrhagic 
mass lesion was discovered on neuroimaging during workup after a 
fall. Patient reports that she tripped over the oxygen tube and 
fell on her left side hitting her head. She did not have LOC. 
She denied involuntary rhythmic jerking. She denies headaches, 
nausea, and vomiting. She did not have focal weakness or sensory 
symptoms. She is dependent on a walker for ambulation. Per 
report, CT C-spine at OSH normal. At OSH, patient did go into 
atrial fibrillation with RVR, which resolved with diltiazem IV.  


On ___, day of admission, patient had MRI that showed 
"hemorrhagic lesion in the right postcentral gyrus appears to 
demonstrate contrast enhancement, suggesting a metastasis. While 
there is associated vasogenic edema, there is no mass effect on 
the right lateral ventricle and no shift of midline structures." 
Hip plain films on ___ also revealed acute left subcapital 
femoral fracture. She was admitted to ___ with neurosurgery 
and orthopaedic surgery following. Her neurological exam 
remained stable. Neuro Oncology was consulted for evaluation of 
her brain lesion. Orthopaedic surgery plans to take her for ORIF 
of her left femoral fracture on ___.

On ___, the primary team was called to the bedside for acute 
altered mental status. Patient's baseline mental status is 
reportedly AOx3. She had received morphine for pain, and was 
having respiratory distress. ABG showed ___. She was 
placed on BiPAP, with repeat ABG 7.31/69/55/36. She was 
subsequently transferred to the medical ICU team for further 
management of hypercarbia and altered mental status.
 
Past Medical History:
COPD, on 2L home oxygen and BiPAP at night
Small Cell Lung Cancer, on palliative chemotherapy. 
Adenoma (low-grade dysplasia)of ampulla of vater
Rectal cancer s/p resection
CAD
Diastolic Congestive Heart Failure
Hypertension 
Hyperlipidemia
GERD
Peripheral vascular disease
Depression
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
MICU Admission Exam:
T:98.1 BP: 153/47 P: 60 R: 29 O2: 88% on BiPAP ___
GENERAL: AOx0, somnolent but arousable, moaning intermittently 
HEENT: Sclera anicteric, left eye with periorbital bruising, 
missing multiple teeth
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Bradycardic, regular rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: Soft, non-tender, distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: Warm, well perfused, no rashes 
NEURO: AOx0, somnolent but arousable

Discharge exam:
VS: 97.2, 110/80, 72, 16, 97% on 2L via nasal cannula
GENERAL: NAD, AOx3, calm, pleasant, cachetic
HEENT: PERRLA, no JVD, no LAD
CARDIAC: regular rate and rhythm, S1/S2, II/VI systolic ejection 
murmur loudest at L USB
LUNG: diffuse crackles, no dullness or egophony, normal work of 
breathing on 2L NC
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no clubbing/cyanosis/edema. Right leg with trace 
edema. L hip NTTP, ORIF site bandaged c/d/i.
NEURO: A&O to person, place, date, reason for admission, moving 
all extremities
SKIN: warm and well perfused 
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:20AM   ___ PTT-24.4* ___
___ 01:20AM   PLT COUNT-126*
___ 01:20AM   NEUTS-91.8* LYMPHS-3.7* MONOS-3.0* EOS-0.3* 
BASOS-0.1 IM ___ AbsNeut-13.50* AbsLymp-0.54* AbsMono-0.44 
AbsEos-0.05 AbsBaso-0.02
___ 01:20AM   WBC-14.7* RBC-3.04* HGB-9.0* HCT-31.4* 
MCV-103*# MCH-29.6 MCHC-28.7*# RDW-15.4 RDWSD-58.8*
___ 01:20AM   ALBUMIN-3.2* CALCIUM-9.0 PHOSPHATE-5.2* 
MAGNESIUM-2.3
___ 01:20AM   proBNP-7579*
___ 01:20AM   cTropnT-0.07*
___ 01:20AM   ALT(SGPT)-22 AST(SGOT)-18 ALK PHOS-64 TOT 
BILI-0.2
___ 01:20AM   estGFR-Using this
___ 01:20AM   GLUCOSE-139* UREA N-35* CREAT-0.9 SODIUM-143 
POTASSIUM-5.2* CHLORIDE-101 TOTAL CO2-35* ANION GAP-12
___ 01:26AM   O2 SAT-91
___ 01:26AM   ___ PO2-74* PCO2-89* PH-7.27* TOTAL 
CO2-43* BASE XS-10
___ 09:42AM   CALCIUM-8.7 PHOSPHATE-5.0* MAGNESIUM-2.4
___ 09:42AM   CK-MB-4 cTropnT-0.09*
___ 09:42AM   CK(CPK)-33
___ 09:42AM   GLUCOSE-105* UREA N-35* CREAT-0.8 SODIUM-143 
POTASSIUM-5.0 CHLORIDE-103 TOTAL CO2-38* ANION GAP-7*

NOTABLE RESULTS
===============
___ 02:00AM BLOOD ALT-11 AST-14 LD(LDH)-188 AlkPhos-63 
TotBili-0.2
___ 12:12AM BLOOD ALT-13 AST-15 LD(LDH)-211 CK(CPK)-37 
AlkPhos-77 TotBili-0.3
___ 09:42AM BLOOD CK-MB-4 cTropnT-0.09*
___ 04:07PM BLOOD CK-MB-4 cTropnT-0.07*
___ 02:00AM BLOOD proBNP-3181*
___ 12:12AM BLOOD CK-MB-3 cTropnT-0.06*
___ 04:52PM BLOOD Lactate-1.4
___ 12:13AM URINE Color-Yellow Appear-Hazy Sp ___
___ 12:13AM URINE Blood-MOD Nitrite-NEG Protein-300 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD

DISCHARGE LABS
=================
___ 05:46AM BLOOD WBC-9.3 RBC-2.62* Hgb-7.9* Hct-26.6* 
MCV-102* MCH-30.2 MCHC-29.7* RDW-16.2* RDWSD-60.4* Plt ___
___ 05:13AM BLOOD WBC-9.0 RBC-2.46* Hgb-7.3* Hct-24.9* 
MCV-101* MCH-29.7 MCHC-29.3* RDW-15.3 RDWSD-57.5* Plt ___
___ 04:46AM BLOOD WBC-8.5 RBC-2.63* Hgb-7.8* Hct-26.6* 
MCV-101* MCH-29.7 MCHC-29.3* RDW-15.3 RDWSD-57.0* Plt ___
___ 05:46AM BLOOD Glucose-86 UreaN-24* Creat-0.9 Na-146* 
K-4.5 Cl-101 HCO3-45* AnGap-5*
___ 05:13AM BLOOD Glucose-99 UreaN-26* Creat-0.9 Na-142 
K-4.2 Cl-98 HCO3-39* AnGap-9
___ 04:46AM BLOOD Glucose-112* UreaN-26* Creat-0.6 Na-143 
K-3.7 Cl-99 HCO3-40* AnGap-8
___ 05:26AM BLOOD ___ pO2-77* pCO2-76* pH-7.35 
calTCO2-44* Base XS-11 Comment-GREEN TOP 

MICROBIOLOGY
============
___ 12:13 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 12:12 am BLOOD CULTURE      Source: Line-portacath. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.

___ 12:12 am BLOOD CULTURE      FROM ___ # 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.  

IMAGES/STUDIES
==============
___ Hip plain film
FINDINGS: There is an acute subcapital fracture of the left 
proximal femur. No additional fracture is seen. There is no 
diastases of the pubic symphysis or the sacroiliac joints. Mild 
degenerative changes are seen at the bilateral hip joints. 
Suture material is seen within the pelvis. There is moderate 
colonic fecal loading. Atherosclerotic calcifications are noted. 
IMPRESSION: Acute left subcapital femoral fracture. 

___ L femur plain film
FINDINGS: No acute fracture is seen at the distal left femur. 
Mild degenerative changes are present at the left knee, most 
severe at the medial compartment. Vascular calcifications are 
noted. There is no knee joint effusion. IMPRESSION: No fracture 
or dislocation seen at the distal left femur. 

___ CXR
FINDINGS: AP portable supine view of the chest. Left chest wall 
Port-A-Cath is noted with catheter tip in the region of the SVC. 
Cardiomegaly is again noted. There has been no significant 
change from prior exam. Lungs remain hyperinflated with hilar 
congestion and scattered bilateral predominately reticulonodular 
opacities. Findings remain concerning for pulmonary edema though 
superimposed atypical infection is difficult to exclude. Tiny 
effusions likely present. No pneumothorax. Bony structures 
remain grossly intact. IMPRESSION: As above. 

___ MRI Brain
FINDINGS: Multiple sequences are limited by motion artifact. 
There is a hemorrhagic lesion in the right postcentral gyrus 
with low signal throughout gradient echo images. Evaluation of 
signal characteristics on precontrast T1 weighted and T2 
weighted images is limited by motion artifact, but only minimal, 
if any, T1 hyperintensity seen. The postcontrast axial T1 
weighted spin echo images are distorted by motion artifact at 
the level of late lesion. The lesion demonstrates hyperintensity 
on the postcontrast MP RAGE images, suggesting contrast 
enhancement. It measures 1.4 x 1.2 x 0.9 cm on the postcontrast 
MP RAGE images, 900:91 and 9:175. There is associated vasogenic 
edema extending from the subcortical white matter to the atrium 
of the right lateral ventricle. There is mild sulcal effacement, 
but no effacement of the right lateral ventricle, and no shift 
of midline structures. Gradient echo images demonstrate no 
evidence of blood products elsewhere in the brain parenchyma. 
Motion limited postcontrast MP RAGE and T1 weighted images 
demonstrate no additional enhancing lesions. T2 weighted and 
FLAIR images demonstrate extensive T2 hyperintensity in the 
periventricular and deep white matter of the cerebral 
hemispheres, as well as scattered T2 hyperintense subcortical 
white matter lesions, which are nonspecific but likely sequela 
of chronic small vessel ischemic disease in this age group. 
There is diffuse T2 hyperintensity within the pons without mass 
effect, which may also be secondary to chronic small vessel 
ischemic disease. Postcontrast MP RAGE images suggest a 
developmental venous anomaly involving the left pons and 
midbrain, with possible associated faint flow voids on T2 
weighted images ; this is not seen on the motion degraded 
postcontrast T1 weighted spin echo images. There is no acute 
diffusion abnormality. Ventricles and sulci are normal in size 
for age. Cerebellar tonsils are normally positioned. Major 
arterial flow voids appear grossly preserved. Major dural venous 
sinuses appear patent on postcontrast MP RAGE images. There is 
mild mucosal thickening in the ethmoid air cells. IMPRESSION: 1. 
Significantly motion-limited exam. 2. The hemorrhagic lesion in 
the right postcentral gyrus appears to demonstrate contrast 
enhancement, suggesting a metastasis. While there is associated 
vasogenic edema, there is no mass effect on the right lateral 
ventricle and no shift of midline structures. 3. No evidence for 
additional hemorrhagic lesions. No additional enhancing mass 
lesions are detected on significantly motion-limited evaluation. 
4. Probable developmental venous anomaly involving the left pons 
and midbrain. RECOMMENDATION(S): Follow up MRI with and without 
contrast is recommended when blood products resolve. 

___ CT Pelvis MTS
FINDINGS: There is a mildly impacted (roughly 4 mm) subcapital 
left femoral neck fracture with trace valgus angulation. There 
is no definite underlying lesion. There is no other fracture or 
dislocation. Well-circumscribed 3 mm sclerotic lesion in the 
right iliac bone is unchanged and likely represents a bone 
island (02:14). No suspicious focal lytic or sclerotic bony 
lesion. There is trace bilateral hip joint degenerative 
spurring. Mild degenerative changes of the pubic symphysis. 
Bilateral SI joints are preserved. Mild degenerative changes of 
the imaged lower lumbar spine. Limited evaluation of bilateral 
knees is grossly unremarkable. Limited evaluation of the 
intrapelvic/abdominal structures is notable for large volume 
ascites. Foley catheter is seen within the bladder with diffuse 
wall thickening. Postsurgical changes from a low anterior 
resection. Additional small bowel anastomosis seen in the right 
lower quadrant. No definite enlarged lymph nodes are identified. 
There is diffuse superficial soft tissue edema. Prominent 
scattered vascular calcifications are noted. IMPRESSION: 1. 
Mildly impacted subcapital left femoral neck fracture with trace 
valgus angulation. No definite underlying bone lesion. If there 
is continued concern, MRI can be performed. 2. No other fracture 
or dislocation. 3. Large volume ascites and diffuse anasarca. 4. 
Diffuse bladder wall thickening around a Foley catheter. 
Correlate with urinalysis as this may represent cystitis. 

___ EEG
IMPRESSION: This was an abnormal continuous ICU EEG monitoring 
study due to the slow and disorganized background throughout, 
indicating a widespread encephalopathy. Medications, metabolic 
disturbances, and infection are among the most common causes. 
Nevertheless, no clear focal abnormalities were evident, 
although encephalopathies may obscure focal findings. Especially 
early in the recording, there were frequent generalized sharp 
waves, but they abated during the course of the recording. They 
did not include spike or sharp and slow wave complexes or any 
repetitive discharges. There were no electrographic seizures 

___ TTE
Conclusions The left atrium and right atrium are normal in 
cavity size. No atrial septal defect is seen by 2D or color 
Doppler. The estimated right atrial pressure is ___ mmHg. There 
is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>65%). 
Tissue Doppler imaging suggests an increased left ventricular 
filling pressure (PCWP>18mmHg). Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets are 
moderately thickened. There is a minimally increased gradient 
consistent with minimal aortic valve stenosis. Trace aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is moderate 
pulmonary artery systolic hypertension. There is a very small 
circumferential pericardial effusion without echocardiographic 
signs of tamponade. IMPRESSION: Mild symmetric left ventricular 
hypertrophy with preserved regional and global biventricular 
systolic function. Moderate pulmonary artery systolic 
hypertension. Minimal aortic valve stenosis. Increased PCWP. 

___ ___
FINDINGS: Study is moderately degraded by motion. Additionally, 
beam hardening artifact limits evaluation of brainstem and 
inferior posterior fossa. Within these confines: There is no 
evidence of large territorial infarct. Again seen is a 
hyperdense lesion measuring 1.1 cm in the right post central 
gyrus, with associated vasogenic edema. This appears stable 
compared to recent prior exams. There is no new mass effect. No 
other foci of hemorrhage or edema are noted. The ventricles and 
sulci are normal in size and configuration. There are 
periventricular follow-up pontine and subcortical lucencies, 
which may represent small vessel ischemic changes, are again 
noted. There is no evidence of fracture. IMPRESSION: 1. Study is 
moderately degraded by motion. 2. Stable right post central 
gyrus hemorrhagic lesion with surrounding vasogenic edema. 
Please note underlying mass is not excluded on the basis of this 
examination. Recommend follow-up imaging to resolution. 3. No 
new foci of hemorrhage or edema. RECOMMENDATION(S): Stable right 
post central gyrus hemorrhagic lesion with surrounding vasogenic 
edema. Please note underlying mass is not excluded on the basis 
of this examination. Recommend follow-up imaging to resolution 

___ KUB
FINDINGS: There is marked gaseous distention of the stomach.  A 
biliary metallic stent is identified with resulting pneumobilia 
in the left lobe of the liver.  The small large bowel appears 
unremarkable.  Air-fluid levels are identified in presumably the 
stomach.  Orthopedic hardware is identified in the left femur. 
IMPRESSION: Gaseous distention of the stomach. 

___ Chest xray
FINDINGS: Compared to ___, there is mild improvement of 
the nodular component of pre-existing bilateral parenchymal 
opacities. Heart size is mildly enlarged. Mediastinal silhouette 
is within normal limits. Left pectoral Port-A-Cath terminates in 
the upper to mid SVC. There is persistent small pleural effusion 
on the right. IMPRESSION: Mild improvement of the pulmonary 
edema compared to ___. 
 
Brief Hospital Course:
___ year-old woman with small cell lung cancer on chemotherapy, 
diastolic CHF, and COPD (2L O2 at home with BiPAP at night) who 
was transferred from ___ for a right parietal 
hemorrhagic mass lesion suspicious for metastasis and left 
femoral neck fracture. Initially admitted to the trauma ICU with 
neurosurgery and trauma surgery managing, however her initial 
workup did not reveal any emergent surgical issues; her status 
progressed to a toxic metabolic encephalopathy picture with 
hypoxic and hypercarbic respiratory failure, for which she was 
transferred to the MICU and then to the medical floor.

# Small cell lung cancer with right parietal hemorrhagic mass: 
Patient has history of small cell lung cancer currently 
receiving chemotherapy with topotecan. Mass lesion concerning 
for metastatic lesion on MRI brain. Neuro-oncology consulted and 
Keppra was administered for seizure prophylaxis. Radiation 
Oncology was also consulted and felt that if her condition 
stabilizes, she could be suitable for whole brain radiation 
therapy. Goals of care discussion was held and determined that 
the patient still wished to pursue treatment despite a poor 
prognosis. Prior to discharge, her outpatient oncologist, Dr. 
___, was contacted and a plan was made to likely resume 
chemotherapy ___ weeks post-discharge. Given her clinical 
improvement, she was again seen by Radiation/Oncology who again 
recommended whole brain radiation. The patient's preference was 
to return to a facility closer to home, therefore Rad/Onc 
treatment will be arranged following discharge. Apart from the 
altered mental status described earlier, she was not noted to 
have any focal neurologic deficits during admission. 

# Left femoral neck fracture: Secondary to mechanical fall with 
evidence on CT pelvis. Orthopedics consulted and underwent ORIF 
on ___. Anticoagulation held given hemorrhagic brain mass 
per NeuroOncology but was placed on ___ for mechanical DVT 
prophylaxis. On the floor, she was seen and treated by Physical 
Therapy who recommended further rehabilitation following 
discharge. Wound care per Orthopedics and was weight bearing as 
tolerated by discharge.

# Toxic Metabolic Encephalopathy: Patient reportedly AOx3 at 
baseline, became acutely altered on the afternoon of ___ in 
the setting of receiving 8 mg IV morphine for pain, which 
subsequently exacerbated hypercarbia as below. A repeat head CT 
did not show any change from prior. Her mental status gradually 
improved with treatment of her respiratory issues, as described 
below. She was kept on an EEG for >24 hours with findings 
consistent with TME and without evidence of seizures. Continued 
on Keppra 500mg BID for seizure prophylaxis.

# Mixed hypoxic and hypercarbic respiratory failure: Patient has 
a history of COPD (on 2L O2 at home with BiPAP at night) and 
became hypercarbic in the setting of receiving morphine for 
pain. She also has a history of diastolic CHF with evidence 
volume overload on CXR and exam. Bilateral pulmonary opacities 
on CXR with mild leukocytosis also concerning for possible 
superimposed pneumonia. Patient treated for CAP with 
levofloxacin. Received steroids for COPD exacerbation and 
standing nebulizers with improvement in respiratory status and 
overall mental status. Patient frequently refused nighttime 
BiPAP and but was able to tolerate it briefly with gradual 
improvement labs and clinical status. Noticed to frequently 
desaturate while off BiPAP. Narcotics were limited only for 
breakthrough pain and maximized on non-opiates for pain control. 


# Acute on Chronic Diastolic Heart Failure: No prior ECHO in OMR 
but per TTE on ___ she has mild symmetric left ventricular 
hypertrophy with preserved regional and global biventricular 
systolic function, moderate pulmonary artery systolic 
hypertension, minimal aortic valve stenosis and increased PCWP. 
BNP 7579 on ___. Home furosemide was held during admission but 
was intermittently diuresed gently in MICU and then restarted on 
___. Aspirin was held in setting of ICH. Metoprolol was held 
when titrating blood pressure control but was also restarted on 
___ in the setting of atrial tachycardia.

# Hypertension: Patient persistently hypertensive on arrival 
Nicardipine gtt was used to keep SBP <160. Drip was weaned and 
she was transitioned to oral agents including home 
spironolactone and HCTZ and increased dose of lisinopril from 10 
to 40mg.

# Atrial fibrillation with rapid ventricular response: history 
of paroxysmal atrial fibrillation with prior episode at OSH 
prior to transfer. Home metoprolol held on admission given need 
for tight blood pressure control. On the night of ___, she 
had an episode of asymptomatic atrial fibrillation with rates to 
150s. She was given IV metoprolol and then IV diltiazem with 
resolution of her rates to ___ and a return to NSR. The need for 
anticoagulation was deferred given acute onset and 
contraindication from recent ICH.

# Constipation: during the patient's floor course, she was noted 
have significant constipation likely secondary to opiate use. 
KUB showed gaseous distention without evidence of obstruction. 
Aggressive bowel regimen ordered and patient defecated on 
___ with relief of symptoms.

# Anemia: macrocytic with hemoglobin 9.0 on admission with 
gradual trend downward with phlebotomy and s/p orthopedic 
surgery. Likely secondary to active malignancy with no signs of 
active bleeding on exam. Received 1U pRBCs on ___ with 
appropriate response. Monitored daily CBC and uptrending on 
discharge. 

Chronic Issues:
# Coronary artery disease: Held aspirin and continued statin. 
# Gastroesophageal reflux disease: home omeprazole held on 
admission and given IV pantoprazole while in ICU. Transitioned 
to oral and will resume home dose on discharge. 
# Depression: Held home citalopram initially in ICU, restarted 
at dose listed in PCP note from ___ (20mg)

Transitional Issues
===================
Metastatic SCLC
[ ] follow-up with Dr. ___ for further chemotherapy 
treatment (appointment scheduled for ___
[ ] arrange Radiation/Oncology care locally in ___ for 
brain radiation
[ ] continue Keppra 500mg BID for seizure prophylaxis, will need 
further discussions regarding course with Radiation/Oncology 
and/or Neuro-Oncology
[ ] continue discussions regarding goals of care

Left hip fracture
[ ] continue physical therapy as prescribed, weight bearing as 
tolerated
[ ] continue TEDs/SCDs/venodynes for VTE prophylaxis

COPD
[ ] continue home nighttime NIPPV (I/E ___
[ ] continue home albuterol/tiotropium/advair with prn 
nebulizers
[ ] continue home O2 to maintain SpO2>88%

CHF
[ ] restarted home furosemide 20mg BID on discharge, hold if SBP 
<100
[ ] follow-up volume status at next visit (discharge weight 
87.3lbs)
[ ] if HR persistently >90, consider increasing Lopressor or 
adding on diltiazem for control
[ ] f/u blood pressure control (lisinopril was increased on 
___, metoprolol restarted on ___
[ ] check chem10 in 5 days

Anemia
[ ] check CBC in 5 days, transfuse for Hgb <7 (discharge 
hemoglobin 7.8)

QT interval: discharge QTc 403
[ ] repeat EKG at next visit given multiple QTc prolonging 
medications

Discharge Cr: 0.6
Discharge weight: 87.3 lbs
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
2. Spironolactone 25 mg PO QHS 
3. Altoprev (lovastatin) 40 mg oral DAILY 
4. Aspirin 81 mg PO DAILY 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Citalopram 20 mg PO DAILY 
7. ClonazePAM 0.5 mg PO DAILY 
8. Hydrochlorothiazide 12.5 mg PO DAILY 
9. Lisinopril 10 mg PO DAILY 
10. Mirtazapine 15 mg PO QHS 
11. Omeprazole 40 mg PO DAILY 
12. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
13. Diphenoxylate-Atropine 1 TAB PO BID:PRN abdominal pain 
14. Metoprolol Tartrate 25 mg PO BID 
15. Furosemide 20 mg PO BID 
16. Acetaminophen 650 mg PO Q4H:PRN pain 
17. Bisacodyl 10 mg PO DAILY:PRN constipation 
18. Senna 8.6 mg PO BID:PRN constipation 
19. Docusate Sodium 100 mg PO BID:PRN constipation 
20. Fentanyl Patch 12 mcg/h TD Q72H 
21. Ferrous Sulfate 325 mg PO BID 
22. Fleet Enema ___AILY:PRN constipation 
23. Gabapentin 100 mg PO QAM 
24. Gabapentin 200 mg PO QHS 
25. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
26. Milk of Magnesia 30 mL PO PRN constipation 
 
Discharge Medications:
1. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Spironolactone 25 mg PO QHS 
5. Acetaminophen 1000 mg PO Q8H 
6. Altoprev (lovastatin) 40 mg oral DAILY 
7. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN shortness of 
breath 
8. Bisacodyl 10 mg PR QHS:PRN Constipation 
9. Docusate Sodium 100 mg PO BID 
10. LeVETiracetam 500 mg PO BID 
11. Nystatin Oral Suspension 5 mL PO QID:PRN thrush 
12. Polyethylene Glycol 17 g PO DAILY 
13. Simethicone 40-80 mg PO QID:PRN gas 
14. Senna 8.6 mg PO BID 
15. Tiotropium Bromide 1 CAP IH DAILY 
16. OxycoDONE (Immediate Release)  2.5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every 6 
hours Disp #*10 Tablet Refills:*0
17. Prochlorperazine 10 mg PO Q6H 
18. Citalopram 20 mg PO DAILY 
19. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
20. Diphenoxylate-Atropine 1 TAB PO BID:PRN abdominal pain 
21. Omeprazole 40 mg PO DAILY 
22. Ferrous Sulfate 325 mg PO BID 
23. Gabapentin 100 mg PO QAM 
24. Gabapentin 200 mg PO QHS 
25. Metoprolol Tartrate 25 mg PO BID 
26. Furosemide 20 mg PO BID 
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- Traumatic left femoral neck fracture
- Right parietal metastasis with hemorrhagic transformation
- Acute hypercapneic respiratory failure
- Acute on chronic diastolic heart failure
- Toxic-metabolic encephalopathy
- Atrial fibrillation with rapid ventricular response
- Cachexia from malignancy

Secondary:
- Metastatic small cell lung cancer on palliative chemotherapy 
s/p left port-a-cath
- Chronic obstructive pulmonary disease on home oxygen
- Obstructive sleep apnea on BiPAP
- Coronary artery disease
- Hypertension 
- Peripheral vascular disease
- Ampullary adenoma s/p ERCP and stenting
- Rectal cancer s/p resection

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___, 

You were admitted to ___ for evaluation and treatment after a 
fall where they discovered that you had bleeding in your brain 
and a fracture of your left hip. Our Oncology physicians helped 
us with your care and recommended that you eventually undergo 
brain radiation to treat this area. Our orthopedic physicians 
repaired your hip on ___. Given your difficulty with 
ambulating and deconditioning after the surgery, we recommend 
that you go to a rehabilitation center to regain your strength. 
We have discussed your care with Dr. ___ will continue 
to help coordinate your care after discharge. 

It was a pleasure taking care of you during your stay- we wish 
you all the best. 
-Your ___ Medicine Team
 
Followup Instructions:
___